US07368472B2
4a {2-Amino-4-[(5-chloro-thiophen-2-ylmethyl)-amino]-phenyl}-carbamic acid ethyl ester
A solution of 5-chlorothiophene-2-carbaldehyde (240 μL, 111 μmol, 463 mM in 1,2-dichloroethane) was added to a solution of 4-amino-2-nitrophenylcarbamic acid ethyl ester (240 μL, 111 μmol, 463 mM in 1,2-dichloroethane). Sodium triacetoxyborohydride (118 mg, 555 μmol) was added, and the resulting mixture was stirred for 3.5 hours at 40° C. The mixture was allowed to cool to ambient temperature, and water (100 μL) was added. The mixture was filtered through silica gel (500 mg) and the column was washed with 1,2-dichloroethane (3 mL). The combined organic phases were evaporated to dryness in vacuo. The resulting solid was dissolved in ethanol (3 mL). Iron (19 mg) was added to one-third of the resulting solution (1 mL), followed by an aqueous solution of hydrochloric acid (96 μL, 6M). The resulting mixture was placed in an ultrasonic bath for 10 minutes. Then, saturated aqueous sodium bicarbonate solution (2 mL) was added. The mixture was extracted with ethyl acetate (3 mL). The organic phase was washed with water (3 mL) and brine (3 mL), dried over magnesium sulphate, filtered, and evaporated to dryness in vacuo. The resulting product was dissolved in 190 μL dimethylsulfoxide and subjected to preparative LC-MS purification. The resulting solution was evaporated to dryness in vacuo. Yield (6.8 mg, 56%). LC-MS (m/z) (M+H)+ 326.1 RT=1.90 (UV, ELSD) 92%, 99%.

reactant | 5-chlorothiophene-2-carbaldehyde | 111 μmol, 463 mM, 240 μL | ClC1=CC=C(S1)C=O | C5H3ClOS
reactant | 4-amino-2-nitrophenylcarbamic acid ethyl ester | 111 μmol, 463 mM, 240 μL | C(C)OC(NC1=C(C=C(C=C1)N)[N+](=O)[O-])=O | C9H11N3O4
reactant | Sodium triacetoxyborohydride | 555 μmol, 118 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | water | 100 μL | O | H2O
product | {2-Amino-4-[(5-chloro-thiophen-2-ylmethyl)-amino]-phenyl}-carbamic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1)NCC=1SC(=CC1)Cl)N)=O | C14H16ClN3O2S
